US07304074B2
The suspension of 4-hydroxy-6-methyl-[1,5]naphthyridine-3-carboxylic acid (2.58 g, 12.64 mmol) in diphenylether (100 mL) was heated under refluxing for 4 hrs. After cooling to room temperature, the reaction mixture was poured into a mixture of nHexane (400 mL) and petroleum ether (200 mL). The brown solid was collected by filtration to give 6-methyl-[1,5]naphthyridin-4-ol (1.71 g, 86%). HR-MS-EI (+) m/e calcd for C9H8N2O (M+) 160.0637. found 160.0638

reactant | 4-hydroxy-6-methyl-[1,5]naphthyridine-3-carboxylic acid | 12.64 mmol, 2.58 g | OC1=C(C=NC2=CC=C(N=C12)C)C(=O)O | C10H8N2O3
solvent | diphenylether | 100 mL | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 6-methyl-[1,5]naphthyridin-4-ol | 1.71 g, 86% | CC=1N=C2C(=CC=NC2=CC1)O | C9H8N2O
